US09145415B2
To a suspension of bis(triphenylphosphine)palladium(II) dichloride (1.02 g) and copper(I) iodide (558 mg) in N,N-dimethylformamide (90 mL), triethylamine (10.2 mL), 2-chloro-5-iodo-4-(pyrrolidin-1-yl)pyrimidine (H1, 4.49 g), and N-(4-pentynyl)phthalimide (4.65 g) were added at room temperature under a nitrogen atmosphere, and the mixture was stirred at the same temperature for 4 hours. To the reaction mixture, water was added. The solid matter was taken by filtration, washed with water, then dried under reduced pressure, and purified by silica gel column chromatography. The obtained solid matter was washed with ethyl acetate, and then dried under reduced pressure to obtain 2-(5-(2-chloro-4-(pyrrolidin-1-yl)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (H2, 3.66 g).

reactant | 2-chloro-5-iodo-4-(pyrrolidin-1-yl)pyrimidine | 4.49 g | ClC1=NC=C(C(=N1)N1CCCC1)I | C8H9ClIN3
reactant | N-(4-pentynyl)phthalimide | 4.65 g | C(CCC#C)N1C(C=2C(C1=O)=CC=CC2)=O | C13H11NO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 10.2 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.02 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 558 mg | [Cu]I
product | 2-(5-(2-chloro-4-(pyrrolidin-1-yl)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | 3.66 g | ClC1=NC=C(C(=N1)N1CCCC1)C#CCCCN1C(C2=CC=CC=C2C1=O)=O | C21H19ClN4O2
